US08309550B2
3-(4-(1-Propyl-1H-pyrrolo[2,3-c]pyridin-3-yl)pyrimidin-2-ylamino)benzenesulfonamide (Compound 111)
Prepared by treatment of (E)-3-(dimethylamino)-1-(1-propyl-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-en-1-one and 3-guanidinobenzenesulfonamide hydrochloride as described above. 1H-NMR (DMSO-d6) δ: 0.89 (t, 3H, J=7.2 Hz, CH3), 1.91 (m, 2H, CH2), 4.36 (t, 2H, J=7.2 Hz, CH2), 6.56 (s, 2H, NH2), 7.34 (m, 2H, Pyrimidin-H and Ph-H), 7.44 (m, 1H, Ar—H or Ph-H), 7.91 (m, 1H, Ar—H or Ph-H), 8.33 (d, 1H J=5.2 Hz, Ar—H), 8.45 (d, 1H, J=5.6 Hz, Pyrimidin-H), 8.52 (m, 2H, Ar—H or Ph-H), 9.02 (s, 1H, Ar—H or Ph-H), 9.84 (s, 1H, Ar—H or Ph-H). MS (ESI+) m/z 409.1514 (M+H)+.

reactant | (E)-3-(dimethylamino)-1-(1-propyl-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN(C2=CN=CC=C21)CCC)C | C15H19N3O
reactant | 3-guanidinobenzenesulfonamide hydrochloride | Cl.N(C(=N)N)C=1C=C(C=CC1)S(=O)(=O)N
product | 3-(4-(1-Propyl-1H-pyrrolo[2,3-c]pyridin-3-yl)pyrimidin-2-ylamino)benzenesulfonamide | C(CC)N1C=C(C=2C1=CN=CC2)C2=NC(=NC=C2)NC=2C=C(C=CC2)S(=O)(=O)N | C20H20N6O2S
